US07294627B2
A stirred suspension of 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine (3.50 g, 15.3 mmol), 2-cyano-4-chloropyridine (2.54 g, 18.3 mmol) and potassium carbonate (4.15 g, 30.0 mmol) in dimethylformamide (38 mL) is heated at 95° C. for 17 hours. Excess dimethylformamide is removed in vacuo and the residue is taken into water and chloroform. The phases are separated and the aqueous phase is extracted into chloroform (×2). The combined organic extracts are washed with 2.5% hydrogen chloride solution, extracted into chloroform (×4) and the combined organic extracts are dried (sodium sulfate), filtered and concentrated in vacuo. The residue is taken into methanol (500 mL) and hydrogen chloride gas is passed through the solution maintaining <20° C. The mixture is kept at this temperature for 3 hours before it is concentrated in vacuo. The residue is taken into water and washed with ethyl acetate (×2). The aqueous phase is made basic by the addition of sodium hydroxide until pH >12 and extracted into ethyl acetate (×8). The combined organic extracts are dried (sodium sulfate), filtered and concentrated in vacuo. The free base is taken into 2.5% hydrogen chloride solution and freeze-dried providing 4-{[(methyl)(2-cyanopyridin-4-yl)amino]methyl}piperidine hydrochloride (3.25 g, 72%).

reactant | 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine | 15.3 mmol, 3.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC | C12H24N2O2
reactant | 2-cyano-4-chloropyridine | 18.3 mmol, 2.54 g | C(#N)C1=NC=CC(=C1)Cl | C6H3ClN2
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 38 mL | CN(C=O)C | C3H7NO
product | 4-{[(methyl)(2-cyanopyridin-4-yl)amino]methyl}piperidine hydrochloride | 3.25 g, 72% | Cl.CN(C1=CC(=NC=C1)C#N)CC1CCNCC1 | InChI=1S/C13H18N4.ClH/c1-17(10-11-2-5-15-6-3-11)13-4-7-16-12(8-13)9-14;/h4,7-8,11,15H,2-3,5-6,10H2,1H3;1H
